US04374963
Preparation of Iodobenzene Diacetate
40.8 g (0.2 mol) of iodobenzene were charged to a 300 ml round bottom flask equipped with thermometer and vented addition funnel. 91.2 g (0.48 mol) of a 40% aqueous solution of peracetic acid was added dropwise to the flask over a 25-minute period while maintaining the flask at 30° C. in a water bath. After about 1 hour a yellowish white solid formed. The reaction mixture was cooled in ice and the solid collected, washed with water and vaccuum dried at 40° C. The iodobenzene diacetate product weighed 40.6 g and had a melting point in the range of 157°-160° C.

reactant | iodobenzene | 0.2 mol, 40.8 g | IC1=CC=CC=C1 | C6H5I
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
product | Iodobenzene Diacetate | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1 | InChI=1S/C6H5I.2C2H4O2/c7-6-4-2-1-3-5-6;2*1-2(3)4/h1-5H;2*1H3,(H,3,4)
